US06432615B1
(3-1) Synthesis of 4-formylphenyl methacrylate
To 61 g of 4-hydroxybenzaldehyde, 400 ml of acetonitrile and 84 ml of triethylamine were added to effect the dissolution. The resulting solution was cooled to 0° C. by ice-methanol and thereto 48.4 ml of methacrylic acid chloride was gradually added dropwise. After 2 hours, the reaction solution was extracted by liquid separation with water and ethyl acetate and then subjected to silica gel column chromatography to produce the objective compound. The objective compound obtained was immediately used in the following reaction.

reactant | 4-hydroxybenzaldehyde | 61 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetonitrile | 400 ml | C(C)#N | C2H3N
reactant | methacrylic acid chloride | 48.4 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | triethylamine | 84 ml | C(C)N(CC)CC | C6H15N
product | 4-formylphenyl methacrylate | C(C(=C)C)(=O)OC1=CC=C(C=C1)C=O | C11H10O3
